US07884207B2
To a solution of tert-butyl 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate (96%, 10.0 g, 22.7 mmol) in dichloromethane (150 mL) at rt was added m-CPBA (55%, 7.12 g, 22.7 mmol). After 1.5 h, the mixture was cooled to 0° C. and concentrated ammonium hydroxide (150 mL) was added, followed by TsCl (4.54 g, 23.8 mmol). The reaction was stirred rapidly overnight. More TsCl (1.00 g and 0.47 g) was added as the mixture was stirred an additional 6 h. Water (200 mL) was added and the mixture was extracted with dichloromethane (3×200 mL). The combined organic phases were washed with brine (3×250 mL) and dried over MgSO4, filtered, and concentrated to a foam, which was crystallized from acetonitrile twice. The fine yellow crystals were dried under vacuum to yield 1.60 g (15%) of tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate, mp 195-197° C. 1H NMR (CDCl3, 300 MHz) δ 8.04 (dm, J=8.3 Hz, 1H), 7.82 (dm, J=8.3 Hz, 1H), 7.53 (m, 1H), 7.31 (m, 1H), 5.40 (br s, 2H), 4.85 (s, 2H), 4.75 (br s, 2H), 3.93 (br s, 3H), 3.72 (q, J=7.0 Hz, 2H), 3.03 (m, 2H), 1.76 (m, 2H), 1.49-1.40 (m, 2H), 1.42 (s, 9H), 1.27 (t, J=7.0 Hz, 3H); MS (APCI) m/z 456 (M+H+); Anal. calcd for C24H33N5O4: C, 63.28; H, 7.30; N, 15.37. Found: C, 63.32; H, 7.53; N, 15.39.

reactant | tert-butyl 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate | 22.7 mmol, 10.0 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C24H32N4O4
reactant | m-CPBA | 22.7 mmol, 7.12 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 150 mL | [OH-].[NH4+]
reactant | TsCl | 23.8 mmol, 4.54 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | TsCl | 1.00 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | Water | 200 mL | O | H2O
product | tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate | 1.60 g, 15% | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCN(CC2)C(=O)OC(C)(C)C)O)COCC | C24H33N5O4
